2127-04-18 03:53:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87M 3 week history of severe angina and dyspnea. Medication adjustments
   made - involving beta-blockers and lasix. Today somnolence worsened and
   sent to ER. He was admitted to CHF service. Notable labs included
   creatinine 1.9 and BNP 11K.
   On floor, he became unresponsive. ABG 7.29/62/106 and he was
   transferred to ICU. In ICU 7.36/54/118. Mental status remains poor.
   24 Hour Events:
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CHF
   chronic AF
   hypothyroid
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-18**] 03:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 107 (97 - 107) bpm
   BP: 89/56(65) {89/56(65) - 109/73(78)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.36/54/118//3
   PaO2 / FiO2: 236
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, arousable to sternal rub
   Labs / Radiology
   1.9
   55
        [image002.jpg]
                             [**2127-4-18**]  02:57 AM
   TCO2
   32
   Other labs: CK / CKMB / Troponin-T://0.05, Lactic Acid:1.9 mmol/L
   Fluid analysis / Other labs: BNP 11K
   Imaging: CXR rotated, kyphotic, bilateral effusion, no clear infiltrate
   Assessment and Plan
   altered mental status - will collect head CT, follow ABG and use BiPAP
   if hypoventilation worsens.
   CHF - holding on diuresis until kidney dysfunction is sorted out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2127-04-18 09:01:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remained with poor mental status this AM but had rapid improvement back
   toward baseline after receiving iv Synthroid
   24 Hour Events:
 BLOOD CULTURED - At [**2127-4-18**] 03:52 AM
 URINE CULTURE - At [**2127-4-18**] 03:52 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-4-18**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96
   HR: 98 (88 - 107) bpm
   BP: 92/75(79) {88/55(61) - 109/75(79)} mmHg
   RR: 12 (8 - 22) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    405 mL
   Urine:
   405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -405 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.36/54/118/27/3
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2127-4-18**]  02:57 AM
   TCO2
   32
   Other labs: Lactic Acid:1.9 mmol/L
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ATRIAL FIBRILLATION (AFIB)
   87 yo M with CHF, hypothyroidism, afib not on coumadin presents with
   history consistent with unstable angina, and had rapildy worsening of
   her mental status on the Floor prior to transfer to ICU.
   .
   # Altered mental status: Much improved with Synthroid
 though effect
   seems a bit quick to be fully explanatory.  Will still pursue MRI head
   given ?facial droop while MS poor (though now improved as well)
   .
   # Hypercarbic respiratory failure: PCO2 improving  - will monitor
   closely for now
   .
   # CHF: Will hold on diuresis for the moment and ask CHF service to see
   him. Hold B-blockade for time being.
   # Communication: Daughter HCP [**Name (NI) 248**] [**Name (NI) **] [**Telephone/Fax (1) 14033**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-4-18**] 07:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter HCP Dr. [**First Name4 (NamePattern1) 248**] [**Known lastname **]
 she has been at
   bedside and has been receiving frequent updates
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2127-04-19 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No major overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2127-4-18**] 04:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-4-19**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2127-4-19**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 106 (81 - 110) bpm
   BP: 93/63(68) {90/51(62) - 116/82(90)} mmHg
   RR: 13 (6 - 95) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    340 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    125 mL
   Urine:
                                                                    665 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/56/150/30/4
   PaO2 / FiO2: 4L
   Physical Examination
   General Appearance: No(t) No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Irregularly Irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally,
   Diminished: ), poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Cyanosis, Cold
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed, Barely arousable
   Labs / Radiology
   145 K/uL
   16.7 g/dL
   98 mg/dL
   1.6 mg/dL
   30 mEq/L
   5.2 mEq/L
   39 mg/dL
   103 mEq/L
   144 mEq/L
   55.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2127-4-18**]  02:57 AM
                             [**2127-4-18**]  09:39 PM
                             [**2127-4-19**]  02:17 AM
                             [**2127-4-19**]  04:37 AM
   WBC
   6.6
   Hct
   55.2
   Plt
   145
   Cr
   1.6
   TCO2
   32
   32
   Glucose
   98
   Other labs: PT / PTT / INR:18.7/35.0/1.7, ALT / AST:18/29, Alk Phos / T
   Bili:86/3.4, Lactic Acid:1.9 mmol/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.6 mg/dL
                                                                [**2127-4-18**]
                                                                     9:39p
   _______________________________________________________________________
                                     pH
                                    7.35
                                    pCO2
                                     56
                                     pO2
                                     150
                                    HCO3
                                     32
                                   BaseXS
                                      4
                                                                [**2127-4-18**]
                                                                    02:57a
   _______________________________________________________________________
                                     pH
                                    7.36
                                    pCO2
                                     54
                                     pO2
                                     118
                                    HCO3
                                     32
                                   BaseXS
                                      3
   Type:Art
   Imaging: MR [**Name13 (STitle) 1372**] w/o Contrast:
   IMPRESSION:
   1. No acute ischemia or hemorrhage.
   2. Tiny punctate focus of susceptibility in the right cerebellum, could
   be a
   microhemorrhage.
   3. Suboptimal MRA of head and neck, due to patient unable to cooperate
   in the scanner, and motion.
   MRA Head
   IMPRESSION:
   1. No acute ischemia or hemorrhage.
   2. Tiny punctate focus of susceptibility in the right cerebellum, could
   be a
   microhemorrhage.
   3. Suboptimal MRA of head and neck, due to patient unable to cooperate
   in the scanner, and motion.
   RUQ U/S:
   IMPRESSION:
   1. Gallbladder likely entirely filled with small stones. No biliary
   dilatation.
   2. Multiple simple bilateral renal cysts.
   3. Distal abdominal aortic aneurysm.
   4. Ascites.
   CT Head:
   IMPRESSION: No intracranial hemorrhage or edema. No fracture.
   But with apparent post surgical changes in the right mastoid bone.
   CXR:
   FINDINGS: As compared to the previous examination, there is no relevant
   change. Large hiatal hernia, unchanged pulmonary edema, unchanged
   bilateral pleural effusions that distribute in a slightly different
   fashion but are overall unchanged in extent. Unchanged moderate
   cardiomegaly.
   No evidence of newly appeared focal parenchymal opacities, no
   pneumothorax.
   ECHO:
   The left atrium is dilated. The right atrium is markedly dilated. No
   atrial septal defect is seen by 2D or color Doppler. There is severe
   symmetric left ventricular hypertrophy. The left ventricular cavity is
   small. Overall left ventricular systolic function is severely depressed
   (LVEF= 20 %) secondary to akinesis of the inferior and posterior walls
   and hypokinesis of the rest of the left ventricle. There is no
   ventricular septal defect. The right ventricular cavity is markedly
   dilated with depressed free wall contractility. The aortic root is
   moderately dilated at the sinus level. The ascending aorta is mildly
   dilated. There are focal calcifications in the aortic arch. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. Mild to moderate ([**2-1**]+) aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. There is no mitral valve
   prolapse. Mild to moderate ([**2-1**]+) mitral regurgitation is seen. The
   tricuspid valve leaflets are mildly thickened. The supporting
   structures of the tricuspid valve are thickened/fibrotic. Moderate [2+]
   tricuspid regurgitation is seen. There is no pericardial effusion.
   IMPRESSION: severe biventricular systolic and diastolic dysfunction;
   severe concentric left ventricular hypertrophy with a small cavity
   Microbiology: [**2127-4-19**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2127-4-18**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2127-4-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2127-4-18**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2127-4-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2127-4-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   87 yo M with CHF, hypothyroidism, afib not on coumadin presents with
   history consistent with unstable angina, and had rapildy worsening of
   her mental status on the Floor prior to transfer to ICU.
   # Altered mental status: Differential is broad, but may be related to
   toxic metabolic process given renal failure, reported LFT
   abnormalities, and hypercarbia. Given history of angina, ACS must be
   evoked as well. However, patient does not reportedly had CAD history.
   Exam concerning given facial droop, but improves when awake. Per report
   patient did have some LEFT sided weakness on Exam in ED prior to mental
   status decline. Additionally, patient is Afib without coumadin, putting
   him at higher CVA risk. Also patient has been inadvertently off of
   synthroid for the last 3 weeks. Finally, CXR might be suspicious for
   recent aspiration event.
   - Synthroid restarted
   - Add on LFTs
   - NPO for now and consider S and S consult if MS improved
   - Hold off on abx for now given patient afebrile
   - Correct electrolytes as appropriate
   - F/u urine, blood and sputum cultures
   - Cycle enzymes
   # Hypercarbic respiratory failure: CO2 improved from 62 to 54 without
   intervention. Seems that CO2 is likely a side effect of the altered
   mental status, and not vice versa. Likely an acute process given that
   ph corrects to 7.45 with CO2 of 40. AG only 11.
   - Continue to follow respiratory status; if worsens will get ABG
   - Defer BIpap for now
   # CHF: Exam consistent with CHF given edema, elevated JVP, and
   irregular rhythm. Given unknown baseline of CR, will defer diuresis for
   now. Will also defer betablockers and ace-i given history of prior
   sensitivies. Cards consulted, did not have any new recommendations.
   - Will not diurese because he is preload dependent.
   - Monitor of tele
   # A fib: Rate controlled for now. Not on coumadin at baseline despite
   CHADS of at least 2.
   - Monitor on tele
   - Cards recommended not beta-blocking given dCHF and hypothyroidism.
   # FEN: No IVF, replete electrolytes, regular diet although poor PO
   intake
   - If continues not taking [**Last Name (LF) **], [**First Name3 (LF) **] consider NG tube placement
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Daughter HCP [**Name (NI) 248**] [**Name (NI) **] [**Telephone/Fax (1) 14033**]
   # Code:  Full (discussed with patient)
   # Disposition: Potential call-out today after discussion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-4-18**] 07:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-04-19 09:59:00 Physician Attending Progress Note
Chief Complaint: Mental Status Changes, CHF, Hypothyroidism
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Denies pain but not very interactive today
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-4-18**] 12:06 PM - EF 20% with concentric
   LV thickening
 ULTRASOUND - At [**2127-4-18**] 01:32 PM - abd u/s --> gall bladder full
   of large stone
 MAGNETIC RESONANCE IMAGING - At [**2127-4-18**] 02:15 PM - no acute
   ischemia/hemorrhage, punctate cerebellar lesion
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2127-4-18**] 04:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-4-19**] 12:36 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-4-19**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 98 (81 - 110) bpm
   BP: 98/70(77) {90/51(62) - 116/82(90)} mmHg
   RR: 18 (9 - 95) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    340 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    185 mL
   Urine:
                                                                    665 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/56/150/30/4
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   16.7 g/dL
   145 K/uL
   98 mg/dL
   1.6 mg/dL
   30 mEq/L
   5.2 mEq/L
   39 mg/dL
   103 mEq/L
   144 mEq/L
   55.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2127-4-18**]  02:57 AM
                             [**2127-4-18**]  09:39 PM
                             [**2127-4-19**]  02:17 AM
                             [**2127-4-19**]  04:37 AM
   WBC
   6.6
   Hct
   55.2
   Plt
   145
   Cr
   1.6
   TCO2
   32
   32
   Glucose
   98
   Other labs: PT / PTT / INR:18.7/35.0/1.7, ALT / AST:18/29, Alk Phos / T
   Bili:86/3.4, Lactic Acid:1.9 mmol/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ATRIAL FIBRILLATION (AFIB)
   87 yo M with CHF, hypothyroidism, afib not on coumadin presents with
   history consistent with unstable angina, and had rapildy worsening of
   her mental status on the Floor prior to transfer to ICU.
   # Altered mental status: MRI results with acute pathology - unclear how
   much of a component hypothyroidism is playing.  Temporally, his
   improvement yesterday seems a bit quick for effect of Synthroid
   # Hypothyroidism: Cont iv Synthroid
   # Hypercarbic respiratory failure: PCO2 improving  holding steady in
   50s
   # CHF: Appreciate CHF service's input - no diuresis for now given his
   preload dependence
   Afib: rate adequately controlled for the moment
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-4-18**] 07:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2127-04-20 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tried to place NGT multiple times but failed so did not start tube
   feeds, but decided to let him eat a little with observation which went
   well. Pressures were a little low in the afternoon but then they rose
   as he started drinking. Drank a lot of fluid. Much more alert and with
   it.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2127-4-19**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-4-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-20**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 98 (90 - 109) bpm
   BP: 132/85(97) {83/12(32) - 137/89(97)} mmHg
   RR: 20 (8 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 100 kg (admission): 101.4 kg
   Height: 72 Inch
                  Total In:
                                                                  1,050 mL
                                                                    120 mL
   PO:
                                                                    900 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                     85 mL
   Urine:
                                                                    500 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Irregularly Irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally,
   Diminished: ), poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Cyanosis, Cold. R calf mildly erythematous
   Labs / Radiology
   140 K/uL
   17.3 g/dL
   87 mg/dL
   1.6 mg/dL
   29 mEq/L
   5.0 mEq/L
   40 mg/dL
   103 mEq/L
   144 mEq/L
   55.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2127-4-18**]  02:57 AM
                             [**2127-4-18**]  09:39 PM
                             [**2127-4-19**]  02:17 AM
                             [**2127-4-19**]  04:37 AM
                             [**2127-4-20**]  02:06 AM
   WBC
   6.6
   6.4
   Hct
   55.2
   55.5
   Plt
   145
   140
   Cr
   1.6
   1.6
   TCO2
   32
   32
   Glucose
   98
   87
   Other labs: PT / PTT / INR:18.7/35.0/1.7, ALT / AST:17/31, Alk Phos / T
   Bili:86/3.6, Lactic Acid:1.9 mmol/L, Albumin:3.8 g/dL, LDH:330 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   87 yo M with CHF, hypothyroidism, afib not on coumadin presents with
   history consistent with unstable angina, and had rapildy worsening of
   her mental status on the Floor prior to transfer to ICU.
   # Altered mental status: Significantly improved. Differential is broad,
   but likely due to hypothyroidism. [**Month (only) 51**] be related to toxic metabolic
   process given renal failure, reported LFT abnormalities, and
   hypercarbia. Given history of angina, ACS must be evoked as well.
   However, patient does not reportedly had CAD history. Exam concerning
   given facial droop, but improves when awake. Per report patient did
   have some LEFT sided weakness on Exam in ED prior to mental status
   decline. Additionally, patient is Afib without coumadin, putting him at
   higher CVA risk. Also patient has been inadvertently off of synthroid
   for the last 3 weeks. Finally, CXR might be suspicious for recent
   aspiration event.
   - Continuing synthroid
   - Speech and swallow consult
   - Advance to clears while up in chair
   - Correct electrolytes as appropriate
   - F/u urine, blood and sputum cultures
   - Appreciate neuro recs
   # Hypercarbic respiratory failure: CO2 improved from 62 to 54 without
   intervention. Seems that CO2 is likely a side effect of the altered
   mental status, and not vice versa. Likely an acute process given that
   ph corrects to 7.45 with CO2 of 40. AG only 11.
   -          Continue to follow respiratory status; if worsens will get
   ABG
   -          Levaquin q48h; started on [**4-18**]. To end on [**4-25**]. Low
   suspicion for PNA.
   # CHF: Exam consistent with CHF given edema, elevated JVP, and
   irregular rhythm. Given unknown baseline of CR, will defer diuresis for
   now. Will also defer betablockers and ace-i given history of prior
   sensitivies. Cards consulted, did not have any new recommendations.
   - Will not diurese because he is preload dependent.
   - Monitor on tele
   # A fib: Rate controlled for now. Not on coumadin at baseline despite
   CHADS of at least 2.
   - Monitor on tele
   - Cards recommended not beta-blocking given dCHF and hypothyroidism.
   # Hypothyroidism
   -          Change today to PO synthroid
   -          Will have out-patient TFTs for follow-up
   # Hyperbilirubinemia
unclear etiology. No clear abdominal pain. [**Month (only) 51**]
   have congestive hepatopathy for CHF
   - Check indirect bilirubin to ensure he is not hemolysing
   # Polycythemia
elevated MCV
   -          Follow-up folate, B12 studies
   # FEN: No IVF, replete electrolytes, advance to clears, speech and
   swallow eval and if does well will advance to a regular diet.
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Daughter HCP [**Name (NI) 248**] [**Name (NI) **] [**Telephone/Fax (1) 14033**]
   # Code: Full (discussed with patient)
   # Disposition: Call-out today to HMED
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-4-18**] 07:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-04-20 09:26:00 Physician Attending Progress Note
Chief Complaint: Hypothyroidism, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS good this AM - report some abd disconfort but otherwise feeling well
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2127-4-19**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-4-20**] 12:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-4-20**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 92 (90 - 109) bpm
   BP: 104/70(78) {83/12(32) - 137/89(97)} mmHg
   RR: 19 (8 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 100 kg (admission): 101.4 kg
   Height: 72 Inch
                  Total In:
                                                                  1,050 mL
                                                                    270 mL
   PO:
                                                                    900 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    195 mL
   Urine:
                                                                    500 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), soft systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, B/L venous stsis changes R>L
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive this
   AM
   Labs / Radiology
   17.3 g/dL
   140 K/uL
   87 mg/dL
   1.6 mg/dL
   29 mEq/L
   5.0 mEq/L
   40 mg/dL
   103 mEq/L
   144 mEq/L
   55.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2127-4-18**]  02:57 AM
                             [**2127-4-18**]  09:39 PM
                             [**2127-4-19**]  02:17 AM
                             [**2127-4-19**]  04:37 AM
                             [**2127-4-20**]  02:06 AM
   WBC
   6.6
   6.4
   Hct
   55.2
   55.5
   Plt
   145
   140
   Cr
   1.6
   1.6
   TCO2
   32
   32
   Glucose
   98
   87
   Other labs: PT / PTT / INR:15.2/32.5/1.3, ALT / AST:17/31, Alk Phos / T
   Bili:86/3.6, Fibrinogen:264 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.8
   g/dL, LDH:330 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ATRIAL FIBRILLATION (AFIB)
   87 yo M with CHF, hypothyroidism, afib not on coumadin presents with
   history consistent with unstable angina, and had rapildy worsening of
   her mental status on the Floor prior to transfer to ICU.
   # Altered mental status: Better today with continued synthroid dosing.
   Cont levaquin for 5 day course
   # Hypothyroidism: Cont Synthroid, transition to po
   # CHF: Appreciate CHF service's input - no diuresis for now given his
   preload dependence.  Holding B-blocker for now given sensitivity of BP
   in past and HR in 80s today
   Afib: HR in 80s on rounds today
   High Hct: High MCV --> B12, folate pending
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-4-18**] 07:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: